US07576135B2
3-(3-chloroanilino)-3-oxopropionic acid ethyl ester
In a manner similar to that described in Referential Example 370, 3-chloroaniline was condensed with potassium ethyl malonate, whereby the title compound was obtained.

reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | potassium ethyl malonate | C(CC(=O)[O-])(=O)OCC.[K+]
product | 3-(3-chloroanilino)-3-oxopropionic acid ethyl ester | C(C)OC(CC(=O)NC1=CC(=CC=C1)Cl)=O | C11H12ClNO3
